US08440689B2
B. (R)-2-(7-Fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide
A solution of (R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide (39.8 mg, 0.078 mmol) in TFA (5 mL) was heated at 60° C. for 2 h. After removal of solvent, the residue was diluted in MeOH (2 mL) and was purified by preparative HPLC. The fractions were collected and the solvent stripped to dryness via rotary evaporation to yield the title compound (12.8 mg, 46%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.82-1.00 (m, 6H), 1.45-1.60 (m, 1H), 1.67-1.83 (m, 2H), 3.87 (s, 3H), 4.36 (s, 2H), 4.50-4.64 (m, 1H), 6.88-7.02 (m, 2H), 7.44 (s, 1H), 8.28 (s, 2H), 8.83 (s, 1H). [M+H] calc'd for C17H21FN6O2, 361. found, 361.

reactant | (R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 0.078 mmol, 39.8 mg | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@@H](C(=O)N)CC(C)C)C=2C=NN(C2)C)=O)C=CC(=C1)OC | C26H31FN6O4
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-2-(7-Fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 12.8 mg, 46% | FC=1C2=C(C(=NC1N[C@@H](C(=O)N)CC(C)C)C=1C=NN(C1)C)C(NC2)=O | C17H21FN6O2
